US04103011
A suspension of ethyl 5,8-dihydro-2-(4-acetyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (1000 g) and concentrated hydrochloric acid (800 ml) in a mixture of water (1200 ml) and ethanol (1000 ml) was refluxed for 8 hours and allowed to stand overnight. The crystals precipitated were collected, washed with ethanol, and dissolved by heating in an aqueous solution (10 liters) of sodium hydroxide (250 g). The solution was filtered, adjusted to pH 7-8 with acetic acid, and allowed to stand overnight while ice-cooling. The crystalline precipitate was collected, washed with water, and dried at 110° C. to give 5,8-dihydro-2-(1-piperazinyl)-5-oxopyrido[2,3-d] pyrimidine-6-carboxylic acid (625 g). m.p. 299-305° C. (decomp.).

reactant | ethyl 5,8-dihydro-2-(4-acetyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 1000 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)OCC | C16H19N5O4
reactant | hydrochloric acid | 800 ml | Cl | ClH
solvent | water | 1200 ml | O | H2O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 5,8-dihydro-2-(1-piperazinyl)-5-oxopyrido[2,3-d] pyrimidine-6-carboxylic acid | 625 g | N1(CCNCC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)O | C12H13N5O3
